US07985862B2
(Step 1) To a solution of 2-amino-5-chlorobenzonitrile (1.95 g) and dimethylaminopyridine (20.3 mg) in N,N-dimethylacetamide (15 ml) was added dropwise methyl chlorocarbonate (3.5 ml) at room temperature, and the mixture was stirred at 90° C. for 5 hr. The mixture was allowed to cool to room temperature, poured into water, and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, and filtered. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=3:20-1:4) to give methyl (4-chloro-2-cyanophenyl)carbamate (1.21 g) as a white solid.

reactant | 2-amino-5-chlorobenzonitrile | 1.95 g | NC1=C(C#N)C=C(C=C1)Cl | C7H5ClN2
reactant | dimethylaminopyridine | 20.3 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | methyl chlorocarbonate | 3.5 ml | C(OC)(=O)Cl | C2H3ClO2
reactant | water | O | H2O
solvent | N,N-dimethylacetamide | 15 ml | CN(C(C)=O)C | C4H9NO
product | methyl (4-chloro-2-cyanophenyl)carbamate | 1.21 g | ClC1=CC(=C(C=C1)NC(OC)=O)C#N | C9H7ClN2O2
